US07977485B2
3-(4-Morpholinyl)phenyl trifluoromethanesulphonate
2.18 ml (12.9 mmol) of trifluoromethanesulphonic anhydride are slowly added dropwise to a solution, cooled to −10° C., of 1.54 g (8.6 mmol) of 3-(4-morpholinyl)-phenol and 3.59 ml (25.8 mmol) of triethylamine in 10 ml of dichloromethane. The mixture is stirred at −10° C. for 30 min and then at 0° C. for 30 min. It is washed successively with 10% strength sodium bicarbonate solution, water and saturated sodium chloride solution, dried over sodium sulphate and concentrated in vacuo, and the residue is dried under high vacuum. 2.41 g (90.1% of theory) of the title compound are obtained.

reactant | trifluoromethanesulphonic anhydride | 12.9 mmol, 2.18 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 3-(4-morpholinyl)-phenol | 8.6 mmol, 1.54 g | N1(CCOCC1)C=1C=C(C=CC1)O | C10H13NO2
reactant | triethylamine | 25.8 mmol, 3.59 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 3-(4-Morpholinyl)phenyl trifluoromethanesulphonate | FC(S(=O)(=O)OC1=CC(=CC=C1)N1CCOCC1)(F)F | C11H12F3NO4S
